Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Flexeril / Keflex
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, right rib pain
 
Major Surgical or Invasive Procedure:
___: CT-guided placement of a ___ pigtail catheter 
into the right pleural space, attached to a Pleur-Evac.  A total 
of 1100 cc of bloody fluid was aspirated. 

 
History of Present Illness:
___ pAfib on Eliquis s/p canoeing fall on rock 4 days ago now 
complaining of worsening shortness of breath and was transferred 
from ___ emergency room to ___ 
emergency department for right hemopneumothorax in the setting 
of right ___ and ___ nondisplaced rib fracture.

Patient report while he was trying to get on the continue, he 
slipped and fell on rocks and landed on his right side.  He has 
been having right back pain, and the wife noticed a large 
ecchymosis overlying the tenderness region.  The past few days 
he has been having worsening shortness of breath especially with
lying down.  Given that he was originally planning to return to 
___ on flight and he had a suspicion for pneumothorax, 
he visited a local urgent care in ___.  A chest x-ray was 
performed and demonstrated hydropneumothorax and he was asked to 
go to ___.  A CT scan was then performed showing 
right ___ and 11th rib fractures, nondisplaced, along with 
hemopneumothorax.  He was then transferred to ___ 
___ emergency department for further evaluation.

Upon arrival his respiratory rate was 20, satting at 94% on room 
air.  He was placed on non-rebreather with respiratory rate 
maintaining at 20 and O2 sat 97%. Chest x-ray was then 
performed, showing hydropneumothorax with moderate hemothorax 
and small pneumothorax. ACS was then consulted for recent trauma 
and
management of hemopneumothorax.

 
Past Medical History:
Past Medical History:
-Paroxysmal atrial fibrillation
-Hypertension
-Hyperlipidemia
-Vitamin D Deficiency 

Past Surgical History:
-None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Vitals: 96.8 112  112/63  22  94% RA 
Gen: AAO3, NAD
HEENT: Normocephalic. PERRLA, EOMI. Sclerae anicteric. Hearing
grossly intact. No ear drainage. Patent nares. MMM.
NECK: Supple without lymphadenopathy.
HEART: Irregular irregular, no m/r/g
CHEST: No crepitus, tenderness to palpation right posterior on
the lower ribs, resolving ecchymosis over tenderness.
LUNGS: Diminished right mid-lower lung field aeration, otherwise
clear to auscultation elsewhere. No crackles/wheezes/rhonchi. No
respiratory distress.
ABDOMEN:  Soft, nontender, nondistended with good bowel sounds
heard. No mass palpated. 
BACK: There is no costovertebral angle tenderness
EXTREMITIES: Multiple healing abrasions on right lower 
extremity,
without cyanosis, clubbing or edema
NEUROLOGICAL:  Gross nonfocal
SKIN: Warm and dry without any rash

Discharge Physical Exam:
VS: 98.8 PO 118 / 78 L Sitting 92 18 93 Ra 
GEN: Awake, Alert, pleasant and interactive.
CV: irregular
PULM: Clear bilateral, diminished Right base. Right chest wall 
tender to palpation.
ABD: Soft, non-tender, non-distended, obese. Active bowel 
sounds. 
EXT: Warm and dry. No edema.
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 

 
Pertinent Results:
___ CXR:
Right hydropneumothorax with small pneumothorax and moderate 
hemothorax.  No signs of tension.  No displaced rib fracture 
seen. 

___ CT Chest:
1. Unchanged appearance of a moderate right hemopneumothorax 
with extensive atelectasis of the right lower lobe, as compared 
to same day outside reference CT exam. 
2. Redemonstration of minimally displaced fracture of the right 
posterior 
eleventh and nondisplaced right posterior tenth ribs. 

___ CXR:
Redemonstration of moderate right hemopneumothorax, which is 
better seen on the dedicated CT chest exam from ___.  
Left lung remains clear. 

___ CXR:
Interval placement of a right basal pleural catheter with 
resulting decrease in volume of right pleural fluid.  Unchanged 
small right pneumothorax. 

___ CXR:
1. Small right pneumothorax, slightly decreased in size. 
2. Stable right basilar opacity representing a combination of 
pleural fluid and likely atelectasis. 

Labs:

___ 07:40AM BLOOD WBC-13.4* RBC-3.72* Hgb-12.2* Hct-36.1* 
MCV-97 MCH-32.8* MCHC-33.8 RDW-12.1 RDWSD-42.6 Plt ___
___ 10:30AM BLOOD WBC-13.1* RBC-3.62* Hgb-12.3* Hct-36.1* 
MCV-100* MCH-34.0* MCHC-34.1 RDW-12.2 RDWSD-45.2 Plt ___
___ 03:00PM BLOOD WBC-12.9* RBC-3.73* Hgb-12.7* Hct-37.2* 
MCV-100* MCH-34.0* MCHC-34.1 RDW-12.3 RDWSD-45.3 Plt ___
___ 08:42PM BLOOD WBC-17.2* RBC-4.05* Hgb-13.6* Hct-40.2 
MCV-99* MCH-33.6* MCHC-33.8 RDW-12.5 RDWSD-45.6 Plt ___
___ 03:00PM BLOOD ___ PTT-27.9 ___
___ 08:42PM BLOOD ___ PTT-29.6 ___
___ 07:40AM BLOOD Glucose-115* UreaN-13 Creat-0.7# Na-137 
K-4.3 Cl-100 HCO3-25 AnGap-12
___ 08:42PM BLOOD Glucose-130* UreaN-38* Creat-1.8* Na-138 
K-4.6 Cl-101 HCO3-19* AnGap-18
___ 07:40AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with afib on apixaban who presented to 
outside hospital after sustaining a fall 4 days prior with 
worsening shortness of breath. At outside hospital he had chest 
x-ray and CT torso that showed right ___ non-displaced rib 
fractures as well as hemopheumothorax. He was transferred to 
___ on ___ for further management. Repeat chest x-ray 
showed hydropneumothorax with moderate hemothorax and small 
pneumothorax. The patient was hemodynamically stable and 
admitted to ___ for further management.

On HD2 interventional radiology was consulted and placed a 12 
___ pigtail drain in the right pleaural space under CT 
guidance. Approximately 1100 mL of blood was drained. Repeat 
chest xray showed improvement with small residual pneumothorax. 
On 
HD4 pigtail drain output was <200 for 24 hours and therefore it 
was removed. Repeat chest xray showed stable/slightly decreased 
pneumothorax. On admission, BUN/creatinine was elevated at 
38/1.8 and trended down to 13/.7 without intervention. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. The patient was given a CD with radiologic 
images and instructed to follow up with his primary care 
provider to have repeat chest xray in approximately 2 weeks. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Vitamin D Dose is Unknown  PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Apixaban 5 mg PO BID 
6. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
7. Bystolic (nebivolol) 10 mg oral DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
please take stool softeners with this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
4.  Vitamin D 1000 UNIT PO DAILY  
5.  Apixaban 5 mg PO BID 
DO NOT  re-start your eliquis until ___  
6.  Atorvastatin 20 mg PO QPM  
7.  Bystolic (nebivolol) 10 mg oral DAILY  
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Lisinopril 20 mg PO DAILY  
10.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Hemopneumothorax
Right ___ rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ for 
shortness of breath, right rib fractures, and blood in your lung 
space after a fall. You had a drain placed to remove the blood 
and allow your lung to fully expand. After your drain was 
removed, you had a repeat chest xray that showed the lung was 
nearly fully expanded. You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:

Rib Fractures:

* Your injury caused RIGHT ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___